US07812160B2
The thus obtained methyl {4-chloro-6-(dimethylamino)-2-[4-(2-naphthoylamino)benzyl]pyrimidin-5-yl}acetate was dissolved in THF (1 mL) and treated with 1N NaOH (0.5 mL). The resulting biphasic mixture was stirred at room temperature for 14 hours at which time it was poured into water. The separated aqueous phase was washed with EtOAc and then acidified with 1N HCl and back extracted with EtOAc. The combined organic extracts was washed with brine, dried over anhydrous MgSO4, filtered, and concentrated in vacuo. The crude product thus obtained was dissolved in a minimum volume of THF to which n-hexane was added. The separated precipitate was collected by suction, rinsed with n-hexane, and dried under vacuum to give (4-chloro-6-(dimethylamino)-2-[4-(2-naphthoylamino)benzyl]pyrimidin-5-yl}acetic acid (0.038 g, 40% yield) as a white powder.

reactant | methyl {4-chloro-6-(dimethylamino)-2-[4-(2-naphthoylamino)benzyl]pyrimidin-5-yl}acetate | ClC1=NC(=NC(=C1CC(=O)OC)N(C)C)CC1=CC=C(C=C1)NC(=O)C1=CC2=CC=CC=C2C=C1 | C27H25ClN4O3
reactant | NaOH | 1N, 0.5 mL | [OH-].[Na+]
reactant | water | O | H2O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | n-hexane | CCCCCC | C6H14
product | (4-chloro-6-(dimethylamino)-2-[4-(2-naphthoylamino)benzyl]pyrimidin-5-yl}acetic acid | 0.038 g, 40% yield | ClC1=NC(=NC(=C1CC(=O)O)N(C)C)CC1=CC=C(C=C1)NC(=O)C1=CC2=CC=CC=C2C=C1 | C26H23ClN4O3
